US04369312
In ether (6 ml) is dissolved diphenylmethyl 3-acetoxymethyl-7-hydroxyimino-3-cephem-4-carboxylate (349 mg), and under ice-cooling, an ethereal solution of diazomethane (1 ml, 0.77 mmol) is added. While the temperature raised gradually to room temperature, the mixture is stirred for an hour. The reaction mixture is then concentrated under reduced pressure and the residue is purified by thin-layer chromatography (developer: ethyl acetate-hexane=1:1) to give diphenylmethyl 3-acetoxymethyl-7-methoxyimino-3-cephem-4-carboxylate (75 mg).

reactant | diphenylmethyl 3-acetoxymethyl-7-hydroxyimino-3-cephem-4-carboxylate | 349 mg | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C(C2=NO)=O | C23H20N2O6S
reactant | diazomethane | 0.77 mmol, 1 ml | [N+](=[N-])=C | CH2N2
solvent | ether | 6 ml | CCOCC | C4H10O
product | diphenylmethyl 3-acetoxymethyl-7-methoxyimino-3-cephem-4-carboxylate | 75 mg | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C(C2=NOC)=O | C24H22N2O6S
